US07514571B2
Methyl hydrogen bicyclo[2,2,2]octane-1,4-dicarboxylate (25.0 g), diphenylphosphoryl azide (32.5 g), triethylamine (17.3 mL) and toluene (500 mL) were mixed together. The mixture was stirred for 2 hours at room temperature and was refluxed for 2 hours. To the resulting mixture, benzylalcohol (122 mL) was added and the mixture was further refluxed for 17 hours. Subsequently, the mixture was allowed to cool and was sequentially washed with a 10% aqueous citric acid, saturated aqueous solution of sodium bicarbonate and saturated brine. The mixture was then dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluant: hexane: ethyl acetate=2:1) to give methyl 4-benzyloxycarbonylaminobicyclo[2,2,2]octane-1-carboxylate (32.2 g).

reactant | Methyl hydrogen bicyclo[2,2,2]octane-1,4-dicarboxylate | 25.0 g | C12(CCC(CC1)(CC2)C(=O)O)C(=O)OC | C11H16O4
reactant | diphenylphosphoryl azide | 32.5 g | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | triethylamine | 17.3 mL | C(C)N(CC)CC | C6H15N
reactant | benzylalcohol | 122 mL | C(C1=CC=CC=C1)O | C7H8O
solvent | toluene | 500 mL | C1(=CC=CC=C1)C | C7H8
product | methyl 4-benzyloxycarbonylaminobicyclo[2,2,2]octane-1-carboxylate | 32.2 g | C(C1=CC=CC=C1)OC(=O)NC12CCC(CC1)(CC2)C(=O)OC | C18H23NO4
